US08486952B2
To a cooled solution of 2-(4-fluorophenyl)-2-hydroxyacetic acid (5.0 g, 29.4 mmol) in ethanol was added con. H2SO4 (10 mL) over a period of 10 min. The reaction mixture was heated at reflux for 5 h. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate (25 mL). The organic solution was washed with aqueous saturated NaHCO3 (25 mL×2), water (20 mL), brine solution (10 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure to give ethyl 2-(4-fluorophenyl)-2-hydroxyacetate (5.0 g, 90%) as crude compound (oily liquid). The crude compound was taken to the next step without further purification. LC-MS (M+H2O)+=216. 1H NMR (400 MHz, DMSO-d6): δ 7.43-7.46 (2H, m), 7.17-7.20 (2H, m), 6.11-6.13 (1H, m), 5.14 (1H, d, J=5.20 Hz), 3.35-4.13 (2H, m), 1.12-1.15 (3H, m).

reactant | 2-(4-fluorophenyl)-2-hydroxyacetic acid | 29.4 mmol, 5.0 g | FC1=CC=C(C=C1)C(C(=O)O)O | C8H7FO3
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-(4-fluorophenyl)-2-hydroxyacetate | 5.0 g, 90% | FC1=CC=C(C=C1)C(C(=O)OCC)O | C10H11FO3
